US08071778B2
6-cyclopropyl-4-(trifluoromethyl)picolinaldehyde
Was synthesized in the same manner as 2-cyclopropyl-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine starting from 6-bromo-4-(trifluoromethyl)picolinaldehyde. 1H-NMR (CDCl3, 400 MHz) δ 9.99 (s, 1H), 7.87 (s, 1H), 7.56 (s, 1H) 2.18 (m, 1H), 1.20 (m, 4H). LC: Tr=1.84 min, HPLC Method 1. Mass spec.: 216.37 (MH)+.

reactant | 2-cyclopropyl-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine | C1(CC1)C1=NC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C23H26F4N2O
reactant | 6-bromo-4-(trifluoromethyl)picolinaldehyde | BrC1=CC(=CC(=N1)C=O)C(F)(F)F | C7H3BrF3NO
product | 6-cyclopropyl-4-(trifluoromethyl)picolinaldehyde | C1(CC1)C1=CC(=CC(=N1)C=O)C(F)(F)F | C10H8F3NO
